US05700653
A creatine kinase buffer solution was prepared to contain 118.9 mmol/L of imidazole (molecular weight 68.1) (Calbiochem, San Diego, Calif.), 11.89 mmol/L of Mg Acetate(H2O)4 (mol. wt. 214.5) (J. T. Baker, Inc.), 23.8 mmol/L of D-Glucose (mol wt 180.2) (Pfanstiehl Labs, Inc.), and 23.77 mmol/L of N-acetyl-L-cysteine (mol wt 163.2) (Boehringer Mannheim Biochemicals, Indianapolis, Ind.).

reactant | imidazole | 118.9 mmol/L | N1C=NC=C1 | C3H4N2
reactant | D-Glucose | 23.8 mmol/L | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | N-acetyl-L-cysteine | 23.77 mmol/L | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
product | creatine | O=C(O)CN(C)C(N)=N | C4H9N3O2
